US05132303
Preparation of 8-(3,3-diphenyl-2-propenyl)-4-methylene-2-oxo-3-propyl-1-oxa-3,8-diazaspiro[4,5]decane
12.6 g of 8-(3,3-diphenyl-2-propenyl)-4-hydroxy-4-methyl-2-oxo-3-propyl-1-oxa-3,8-diazaspiro[4,5]decane are refluxed in a mixture of 126 ml of acetic acid and 5.7 ml of acetic anhydride under nitrogen while stirring for 4 to 5 hours, then the solvent is distilled off under reduced pressure. The residue is made alkaline by adding 5% by weight aqueous sodium hydroxide solution and extracted with benzene. After washing the benzene phase with water to neutral and drying over anhydrous sodium sulfate, benzene is evaporated under reduced pressure and the remaining crude product is recrystallized from ethanol to give the title compound in 85.7% yield, m.p.: 126°-127° C.

reactant | 8-(3,3-diphenyl-2-propenyl)-4-hydroxy-4-methyl-2-oxo-3-propyl-1-oxa-3,8-diazaspiro[4,5]decane | 12.6 g | C1(=CC=CC=C1)C(=CCN1CCC2(C(N(C(O2)=O)CCC)(C)O)CC1)C1=CC=CC=C1 | C26H32N2O3
solvent | acetic acid | 126 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 5.7 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 8-(3,3-diphenyl-2-propenyl)-4-methylene-2-oxo-3-propyl-1-oxa-3,8-diazaspiro[4,5]decane | 85.7% yield | C1(=CC=CC=C1)C(=CCN1CCC2(C(N(C(O2)=O)CCC)=C)CC1)C1=CC=CC=C1 | C26H30N2O2
